US09216980B2
Step 1: 9-Benzenesulfonyl-3-bromo-5-ethoxy-9H-dipyrido[2,3-b;4′,3′-d]pyrrole-6-carbonitrile
A solution of 9-benzenesulfonyl-3-bromo-5-hydroxy-9H-dipyrido[2,3-b;4′,3′-d]pyrrole-6-carbonitrile (120 mg, 0.28 mmol) in anhydrous THF (5 mL) was cooled to 0° C. and treated with sodium hydride (60% dispersion in mineral oil; 12 mg, 0.30 mmol). After gas evolution had ceased, iodoethane (424 μL, 4.10 mmol) was added and the mixture stirred at ambient temperature overnight then heated at 60° C. for 5 h. The reaction was then allowed to cool, diluted with toluene and concentrated in vacuo. The residue was purified by column chromatography (silica, 2 g column, Si II SPE, 10-100% ethyl acetate in DCM) to afford the title compound as a yellow solid (30 mg, 23%). 1H NMR (DMSO-D6, 400 MHz): 8.86 (s, 1H), 8.77 (s, 2H), 8.24-8.22 (m, 1H), 8.22-8.20 (m, 1H), 7.81-7.75 (m, 1H), 7.68-7.61 (m, 2H), 4.75 (q, J=7.2 Hz, 2H), 1.64 (t, J=7.2 Hz, 3H). LCMS (Method B): RT=3.30 min, M+H+=457/459.

reactant | 9-benzenesulfonyl-3-bromo-5-hydroxy-9H-dipyrido[2,3-b;4′,3′-d]pyrrole-6-carbonitrile | 0.28 mmol, 120 mg | C1(=CC=CC=C1)S(=O)(=O)N1C2=C(C3=C1C=NC(=C3O)C#N)C=C(C=N2)Br | C17H9BrN4O3S
reactant | sodium hydride | 0.30 mmol, 12 mg | [H-].[Na+]
reactant | iodoethane | 4.10 mmol, 424 μL | ICC | C2H5I
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 9-Benzenesulfonyl-3-bromo-5-ethoxy-9H-dipyrido[2,3-b;4′,3′-d]pyrrole-6-carbonitrile | 30 mg, 23% | C1(=CC=CC=C1)S(=O)(=O)N1C2=C(C3=C1C=NC(=C3OCC)C#N)C=C(C=N2)Br | C19H13BrN4O3S
